US08349880B2
Step AAD (1): Followed the method of B. Miller and H.-S. Wong Tetrahedron 1972, 28, 2369. Bromine (0.082 mL, 1.59 mmol) in was added dropwise over a period of 15 min to a solution of 2-benzylcyclohexanone (300 mg, 1.593 mmol) in chloroform (5 mL). The reaction mixture was stirred at rt for 2 h, then concentrated in vacuo to afford 2-benzyl-6-bromocyclohexanone. The crude product, which is prone to decomposition, was used for subsequent chemistry without purification or characterization.

reactant | Bromine | 1.59 mmol, 0.082 mL | BrBr | Br2
reactant | 2-benzylcyclohexanone | 1.593 mmol, 300 mg | C(C1=CC=CC=C1)C1C(CCCC1)=O | C13H16O
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-benzyl-6-bromocyclohexanone | C(C1=CC=CC=C1)C1C(C(CCC1)Br)=O | C13H15BrO
